* Created by KLayout
*** My special header ***

* cell opamp_r2r_diff_TOSHIO_NAKAMURA
* pin BNI
* pin BNO
* pin BPI
* pin BPO
* pin INM
* pin INM_N
* pin INM_P
* pin INP
* pin INP_N
* pin INP_P
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_diff_TOSHIO_NAKAMURA BNI BNO BPI BPO INM INM_N INM_P INP
+ INP_N INP_P VDD VSS
* device instance $1 r0 *1 3.8,-27.2 NMOS
XM$1 INP_N INP \$14 VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
* device instance $5 m90 *1 136.7,-26.7 NMOS
XM$5 INM_N INM \$14 VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
* device instance $9 m90 *1 136.7,-58.6 NMOS
XM$9 \$14 BNI \$1 VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
* device instance $13 m90 *1 136.7,-87.8 NMOS
XM$13 \$1 BNO VSS VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
* device instance $17 r0 *1 3.8,-58.4 NMOS
XM$17 \$14 BNI \$2 VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
* device instance $21 r0 *1 3.8,-87.8 NMOS
XM$21 \$2 BNO VSS VSS NMOS L=5u W=30.4u AS=55.48p AD=55.48p PS=52.6u PD=52.6u
* device instance $25 r180 *1 28.4,98.8 PMOS
XM$25 VDD BPO \$15 VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
* device instance $33 r180 *1 28.4,9.7 PMOS
XM$33 \$7 INP INP_P VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
* device instance $41 m0 *1 113.9,53.7 PMOS
XM$41 \$7 BPI \$17 VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
* device instance $49 m0 *1 113.9,9.7 PMOS
XM$49 \$7 INM INM_P VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
* device instance $57 m0 *1 113.9,98.8 PMOS
XM$57 VDD BPO \$17 VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
* device instance $65 r180 *1 28.4,53.7 PMOS
XM$65 \$7 BPI \$15 VDD PMOS L=5u W=60.8u AS=101.08p AD=101.08p PS=95u PD=95u
.ENDS opamp_r2r_diff_TOSHIO_NAKAMURA
